US07220861B2
8.0 g of ethyl 3-(2-fluoroethylamino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylate was dissolved in 64 ml of acetonitrile under heating to 75˜80° C. 9.06 g (1.8 eq.) of K3PO4 was added in portions to the reaction mixture, which was then stirred at the same temperature for 1.5 hours. The reaction mixture was filtered under a reduced pressure and washed with 80 ml of dichloromethane. The filtrate was concentrated under a reduced pressure. The resulting residue was dissolved in 48 ml of dichloromethane and then washed with water. The organic layer was concentrated under a reduced pressure to give 7.29 g of ethyl 6,7,8-trifluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate (Yield: 96.9%).

reactant | ethyl 3-(2-fluoroethylamino)-2-(2,3,4,5-tetrafluorobenzoyl)acrylate | 8.0 g | FCCNC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C14H12F5NO3
reactant | K3PO4 | 9.06 g, 1.8 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | acetonitrile | 64 ml | C(C)#N | C2H3N
product | ethyl 6,7,8-trifluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 7.29 g, Yield: 96.9% | FC=1C=C2C(C(=CN(C2=C(C1F)F)CCF)C(=O)OCC)=O | C14H11F4NO3
